US04239769
5-(N,N-Dimethylaminomethyl)-2-thienyl-4-butanamine dioxalate
N-[4-[5-(N,N-Dimethylaminomethyl)2-thienyl]butyl]1H-isoindole-1,3(2H)-dione hydrochloride (15.3 g) was treated with sodium hydroxide and extracted with ethyl acetate. Evaporation of the organic extracts gave an oil which was heated at reflux with hydrazine hydrate (2.5 g) in ethanol (100 ml) for 5 hr. Solvent was removed, the residue was basified and extracted with ethyl acetate. Addition of ethanolic oxalic acid gave the title compound as white crystals (9.58 g) m.p. 157.5°-159°. TLC silica/ethyl acetate, water, isopropanol, 0.88 ammonia, 25:8:15:2, Rf 0.20.

reactant | N-[4-[5-(N,N-Dimethylaminomethyl)2-thienyl]butyl]1H-isoindole-1,3(2H)-dione hydrochloride | 15.3 g | Cl.CN(C)CC1=CC=C(S1)CCCCN1C(C2=CC=CC=C2C1=O)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrazine hydrate | 2.5 g | O.NN
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(N,N-Dimethylaminomethyl)-2-thienyl-4-butanamine dioxalate | 9.58 g | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.CN(C)CC1=CC=C(S1)CCCCN | InChI=1S/C11H20N2S.2C2H2O4/c1-13(2)9-11-7-6-10(14-11)5-3-4-8-12;2*3-1(4)2(5)6/h6-7H,3-5,8-9,12H2,1-2H3;2*(H,3,4)(H,5,6)
